US07105671B2
A solution of 2-(4-methylsulfonyl-3-trifluoromethyl-phenyl)-3-(tetrahydro-pyran-2-yl)-propionic acid (50 mg, 0.13 mmol) in methylene chloride (1 mL) was treated with N,N-dimethylformamide (3 drops) and then cooled to 0° C. The reaction mixture was then treated with a 2.0M solution of oxalyl chloride in methylene chloride (0.08 mL, 0.156 mmol). The reaction mixture was stirred at 0° C. for 30 min, allowed to warm to 25° C., and then concentrated in vacuo to remove solvents and excess oxalyl chloride. The resulting residue was re-dissolved in dry tetrahydrofuran (1 mL) and was treated dropwise with a solution of 2-aminothiazole (28 mg, 0.27 mmol) in tetrahydrofuran (1 mL) and 2,6-lutidine (0.08 mL, 0.65 mmol). The resulting reaction mixture was stirred at 25° C. for 16 h. The reaction mixture was then diluted with water (50 mL) and extracted with methylene chloride (3×50 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 12M, Silica, 7/3 hexanes/ethyl acetate to 6/4 hexanes/ethyl acetate to 1/1 hexanes/ethyl acetate) afforded 2-(4-methylsulfonyl-3-trifluoromethyl-phenyl)-3-(tetrahydro-pyran-2-yl)-N-thiazole-2-yl-propionamide (37 mg, 61%) as a white foam: EI-HRMS m/e calcd for C19H21F3N2O4S2 (M+H)+ 463.0968 found 463.0974.

reactant | 2-(4-methylsulfonyl-3-trifluoromethyl-phenyl)-3-(tetrahydro-pyran-2-yl)-propionic acid | 0.13 mmol, 50 mg | CS(=O)(=O)C1=C(C=C(C=C1)C(C(=O)O)CC1OCCCC1)C(F)(F)F | C16H19F3O5S
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-aminothiazole | 0.27 mmol, 28 mg | NC=1SC=CN1 | C3H4N2S
reactant | 2,6-lutidine | 0.65 mmol, 0.08 mL | N1=C(C=CC=C1C)C | C7H9N
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | water | 50 mL | O | H2O
solvent | methylene chloride | 0.156 mmol, 0.08 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-methylsulfonyl-3-trifluoromethyl-phenyl)-3-(tetrahydro-pyran-2-yl)-N-thiazole-2-yl-propionamide | 37 mg, 61% | CS(=O)(=O)C1=C(C=C(C=C1)C(C(=O)NC=1SC=CN1)CC1OCCCC1)C(F)(F)F | C19H21F3N2O4S2
